US03971819
A. 3-nitro-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (22.4 g), β-phenylethylamine (29 g), and water (200 ml) was refluxed for 2.5 hours. After cooling, the reaction mixture was adjusted to a pH of 9.5 and extracted with diethyl ether. The aqueous layer was then acidified by addition of 4N hydrochloric acid, and the precipitated 3-nitro-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid was collected by suction. After recrystallization from aqueous ethanol, the melting point was 208°-208.5°C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 22.4 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | β-phenylethylamine | 29 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | water | 200 ml | O | H2O
product | 3-nitro-4-(β-phenylethylamino)-5-sulphamyl-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1NCCC1=CC=CC=C1)S(N)(=O)=O | C15H15N3O6S
